US05840917
2-Trimethylsilyl-3-furancarboxylic acid (16.4 g) (synthesized in accordance with the method described in J. C. S. Perkin, 1, 1125 (1981)) was dissolved in N,N-dimethylformamide (50 ml), and potassium carbonate (12.3 g) and iodoethane (13.9 g) were added. The mixture was stirred at room temperature for 15 hours, poured into ice water and extracted with diethyl ether. The extract was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and the desired fractions were concentrated under reduced pressure to give 2-trimethylsilyl-3-furancarboxylic acid ethyl ester (16.3 g) as oil. 2-Trimethylsilyl-3-furancarboxylic acid ethyl ester (16.3 g) was dissolved in acetonitrile (75 ml), and sulfuryl chloride (10.9 g) in acetonitrile (25 ml) was added dropwise. The mixture was stirred at room temperature for 1 hour, poured into ice water and extracted with diethyl ether. The extract was washed with 10% aqueous sodium thiosulfate and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and the desired fractions were concentrated under reduced pressure to give 2-chloro-3-furancarboxylic acid ethyl ester (3.5 g) as oil. 2-Chloro-3-furancarboxylic acid ethyl ester (3.5 g) was dissolved in ethanol (25 ml), and 1N aqueous sodium hydroxide (25 ml) was added. The mixture was stirred at room temperature for 1.5 hour and concentrated under reduced pressure. The residue was dissolved in water and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Precipitated crystals were collected by filtration and washed with diisopropyl ether-hexane to give 2-chloro-3-furancarboxylic acid (2.2 g) as crystals. mp 138°-141° C.

reactant | 2-Trimethylsilyl-3-furancarboxylic acid ethyl ester | 16.3 g | C(C)OC(=O)C1=C(OC=C1)[Si](C)(C)C | C10H16O3Si
reactant | sulfuryl chloride | 10.9 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 2-chloro-3-furancarboxylic acid ethyl ester | 3.5 g | C(C)OC(=O)C1=C(OC=C1)Cl | C7H7ClO3
